US08247377B2
Intermediate 42: Methyl 2,6-diformylbenzoate
To a solution of 1-hydroxy-3-oxo-1,3-dihydro-2-benzofuran-4-carbaldehyde (720 mg) in anhydrous dimethylformamide (4 ml) was added potassium carbonate (613 mg). It was stirred for 30 minutes to give a thick white suspension. Iodomethane (0.4 ml) was added and stirred for 3 days. More methyl iodide (0.4 ml) was added and stirring continued for 24 hours. Most of the dimethylformamide was evaporated in vacuo. The pale yellow residue was partitioned between ethyl acetate (25 ml) and water (25 ml) and the organic phase was washed with aqueous lithium chloride (50 ml) and saturated brine (25 ml), dried over sodium sulphate and evaporated to give a pale yellow solid (645 mg).

reactant | 1-hydroxy-3-oxo-1,3-dihydro-2-benzofuran-4-carbaldehyde | 720 mg | OC1OC(C2=C1C=CC=C2C=O)=O | C9H6O4
reactant | potassium carbonate | 613 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 0.4 ml | IC | CH3I
reactant | methyl iodide | 0.4 ml | CI | CH3I
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Methyl 2,6-diformylbenzoate | 645 mg | C(=O)C1=C(C(=O)OC)C(=CC=C1)C=O | C10H8O4
